US08097623B2
(a) 5-Hydroxy-1-(4-isopropoxyphenyl)-indole-2,3-dicarboxylic acid dimethyl ester
The sub-title compound was prepared from N-(4-isopropoxyphenyl)aminofumaric acid dimethyl ester (1.57 g, 5.40 mmol), p-benzoquinone (0.60 g, 5.6 mmol) and BF3 etherate (0.83 m L, 5.8 mmol), see procedure in GDR No. 61800 (1967). Yield 1.40 g (71%).

reactant | N-(4-isopropoxyphenyl)aminofumaric acid dimethyl ester | 5.40 mmol, 1.57 g | COC(\C(=C\C(=O)OC)\NC1=CC=C(C=C1)OC(C)C)=O | C15H19NO5
reactant | p-benzoquinone | 5.6 mmol, 0.60 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | BF3 | 5.8 mmol | B(F)(F)F | BF3
product | 5-Hydroxy-1-(4-isopropoxyphenyl)-indole-2,3-dicarboxylic acid dimethyl ester | COC(=O)C=1N(C2=CC=C(C=C2C1C(=O)OC)O)C1=CC=C(C=C1)OC(C)C | C21H21NO6
